US04080330
N-carbamoyl-3-phenyl indoline
A mixture comprising 2.3 g of 3-phenyl indoline hydrochloride in 23 ml of water and 0.81 g of potassium isocyanate in 23 ml of ethanol was stirred for 15 minutes at room temperature. The precipitate which resulted was filtered off, washed with water and recrystallized from dilute ethanol. The yield of N-carbamoyl-3-phenylindoline was 0.9 g and the product had a melting point of 144°-145° C.

reactant | 3-phenyl indoline hydrochloride | 2.3 g | Cl.C1(=CC=CC=C1)C1CNC2=CC=CC=C12
reactant | potassium isocyanate | 0.81 g | [N-]=C=O.[K+]
solvent | water | 23 ml | O | H2O
solvent | ethanol | 23 ml | C(C)O | C2H6O
product | N-carbamoyl-3-phenyl indoline | C(N)(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C15H14N2O
